US07268230B2
4-Chloro-7-{2-[4-(2-fluoroethyl)piperazin-1-yl]ethoxy}-6-methoxyquinazoline (172 mg, 0.47 mmol) was dissolved in dimethylacetamide (5 ml). 5-Hydroxy-7-azaindole (69 mg, 0.51 mmol), (prepared as described for the starting material in Example 2), and potassium carbonate (71 mg, 0.51 mmol) were added and the mixture heated to 85° C. for 4 hours. The reaction mixture was cooled, filtered and concentrated. The resulting residue was purified by column chromatography eluting with methylene chloride/methanol (saturated with ammonia) (94/6). The fractions containing the expected product were evaporated under vacuum and the residue was suspended in acetone, filtered and dried under vacuum to give 4-(7-azaindol-5-yloxy)-7-{2-[4-(2-fluoroethyl)piperazin-1-yl]ethoxy}-6-methoxyquinazoline (123 mg, 56%).

reactant | 4-Chloro-7-{2-[4-(2-fluoroethyl)piperazin-1-yl]ethoxy}-6-methoxyquinazoline | 0.47 mmol, 172 mg | ClC1=NC=NC2=CC(=C(C=C12)OC)OCCN1CCN(CC1)CCF | C17H22ClFN4O2
reactant | 5-Hydroxy-7-azaindole | 0.51 mmol, 69 mg | OC=1C=C2C=CNC2=NC1 | C7H6N2O
reactant | potassium carbonate | 0.51 mmol, 71 mg | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylacetamide | 5 ml | CC(=O)N(C)C | C4H9NO
product | 4-(7-azaindol-5-yloxy)-7-{2-[4-(2-fluoroethyl)piperazin-1-yl]ethoxy}-6-methoxyquinazoline | 123 mg, 56% | N1C=CC2=CC(=CN=C12)OC1=NC=NC2=CC(=C(C=C12)OC)OCCN1CCN(CC1)CCF | C24H27FN6O3
